US05470896
54.8 g (0.4 mol) of 3-dimethylaminophenol and 13.58 g (0.04 mol) of tetrabutylammonium hydrogen sulfate are placed in 200 ml of toluene in a 750 ml sulfonating flask having an anchor mixer, thermometer, reflux condenser and dropping funnel and at RT 80 g (1.0 mol) of a 50% aqueous NaOH solution are added dropwise in the course of 30 minutes. The suspension is then stirred for 30 minutes at 80° C. and then at the same temperature 109.6 g (0.8 mol) of butyl bromide are added in the course of 45 minutes. After a subsequent reaction period of 2 hours the mixture is cooled and filtered, and the filtrate is washed once with 70 ml of H2O, dried over MgSO4, filtered and concentrated by evaporation. The crude product is distilled under a high vacuum, yielding 64 g of 3-dimethylaminophenylbutyl ether in the form of a colourless liquid having a boiling point of 94° -96° C. (0.08 mbar) which no longer has an OH band in the IR spectrum and of which the NMR analysis is in agreement with the said structure.

reactant | 3-dimethylaminophenol | 0.4 mol, 54.8 g | CN(C=1C=C(C=CC1)O)C | C8H11NO
reactant | NaOH | [OH-].[Na+]
reactant | butyl bromide | 0.8 mol, 109.6 g | C(CCC)Br | C4H9Br
catalyst | tetrabutylammonium hydrogen sulfate | 0.04 mol, 13.58 g | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | 3-dimethylaminophenylbutyl ether | 64 g | CN(C=1C=C(C=CC1)CCCCOCCCCC1=CC(=CC=C1)N(C)C)C | C24H36N2O
